US09216975B2
Preparation of 1-(4-(trifluoromethyl)benzyl)-3-(2,3-dihydro-2-oxobenzo[d]oxazol-7-yl)urea
Commercially available 4-trifluoromethylbenzylamine (1 ml, 7 mmol) was dissolved in 20 ml of AcOEt and at 0° C. triphosgene (2 g, 7 mmol) was added to the solution. The mixture was warmed at 80° C. for 4 hours then evaporated and the residue was dissolved in 5 ml of DMF. The solution of the isocyanate was added dropwise to a solution in DMF (10 ml) of compound 1c (700 mg, 4.66 mmol) and the mixture was warmed at 80° C. for 8 hours. (TLC AcOEt 4/petroleum ether 6). The solvent was evaporated and the crude was dissolved in AcOEt (30 ml) and washed with water (1×20 ml) and brine. The organic phase was dried over sodium sulfate and concentrated under vacuum. The purification of the crude residue by chromatographic column gave 320 mg of a white solid. Yield=19.5% 1HNMR (DMSO, 400 MHz) δ 4.41 (2H, d, J=6 Hz), 6.67 (1H, dd, J=7.6 Hz, J′=1.2 Hz), 7.00 (1H, t, J=8 Hz), 7.09 (1H, t), 7.51 (2H, d, J=8 Hz), 7.70 (3H, m), 8.73 (1H, s), 10.60 (1H, bs); [M+1] 352.1 (C16H12F3N3O3 requires 351.3).

reactant | 4-trifluoromethylbenzylamine | 7 mmol, 1 ml | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
reactant | triphosgene | 7 mmol, 2 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | isocyanate | [N-]=C=O
solvent | AcOEt | 20 ml | CCOC(=O)C | C4H8O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-(4-(trifluoromethyl)benzyl)-3-(2,3-dihydro-2-oxobenzo[d]oxazol-7-yl)urea | 320 mg, Yield=19.5% | FC(C1=CC=C(CNC(=O)NC2=CC=CC=3NC(OC32)=O)C=C1)(F)F | C16H12F3N3O3
